US09127005B2
A mixture containing 0.25 g (1.0 mmol) of (S)-4-(4-fluorophenyl)-2,8-diazaspiro[4.5]decan-1-one, 0.2 g (1.41 mmol) of tert-butyl 2-oxoethylcarbamate, 2 mL of THF, 1 mL of DCM, and 1 g (2.5 mmol) of MP-sodium triacetoxyborohydride resin was rotated overnight. The reaction mixture was filtered and the solvents were removed under reduced pressure. The residue was subjected to silica gel chromatography to give 131 mg (33%) of (S)-tert-butyl 2-(4-(4-fluorophenyl)-1-oxo-2,8-diazaspiro[4.5]decan-8-yl)ethylcarbamate as a colorless oil: 1HNMR (400 MHz, CD3OD) δ ppm 7.35-7.32 (m, 2H), 7.12-7.07 (m, 2H), 3.68 (dd, 1H, J=10.4 and 7.6 Hz), 3.57 (dd, 1H, J=10.4 and 6.4 Hz), 3.32-3.28 (m, 3H), 3.11-3.08 (m, 2H), 2.87-2.84 (m, 3H), 2.02-1.80 (m, 4H), 1.41 (s, 9H), and 1.34-1.27 (m, 2H); LCMS m/z: 392.3 (M+H)+.

reactant | (S)-4-(4-fluorophenyl)-2,8-diazaspiro[4.5]decan-1-one | 1.0 mmol, 0.25 g | FC1=CC=C(C=C1)[C@@H]1CNC(C12CCNCC2)=O | C14H17FN2O
reactant | tert-butyl 2-oxoethylcarbamate | 1.41 mmol, 0.2 g | O=CCNC(OC(C)(C)C)=O | C7H13NO3
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 2-(4-(4-fluorophenyl)-1-oxo-2,8-diazaspiro[4.5]decan-8-yl)ethylcarbamate | 131 mg, 33% | FC1=CC=C(C=C1)[C@@H]1CNC(C12CCN(CC2)CCNC(OC(C)(C)C)=O)=O | C21H30FN3O3
